US05403934
3-Chloro-5-(4-(4-chlorophenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one
To a stirred solution of 3-(4-(4-chlorophenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one (0.8 g) in acetic acid (10 ml) was added N-chlorosuccinimide (0.39 g). The mixture was heated at 100° for 30 min, cooled to room temperature and the precipitate filtered and dried in vacuo to afford the title compound (0.33 g), m.p. 340°-343°, NMR δH (d6 -DMSO) 11.3 (1H, br.s), 7.42 (2H, m), 7.2 (2H, m), 6.95-7.12 (4H, m), 2.4 (3H, s), 2.1 (3H, s).

reactant | 3-(4-(4-chlorophenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one | 0.8 g | ClC1=CC=C(OC2=CC=C(C=C2)C2=C(NC(=CC2=O)C)C)C=C1 | C19H16ClNO2
reactant | N-chlorosuccinimide | 0.39 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-Chloro-5-(4-(4-chlorophenoxy)phenyl)-2,6-dimethylpyridin-4(1H)-one | 0.33 g | ClC1=C(NC(=C(C1=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl)C)C | C19H15Cl2NO2
